US08609660B2
DIPEA (1.18 mL, 6.77 mmol) was added to a solution of rac-1-(3-bromo-phenyl)-1-(1H-pyrazol-3-yl)-ethylamine (1.2 g, 4.51 mmol) in DCM (20 mL) and the mixture was cooled in an ice bath. Then chloroacetyl chloride (0.40 mL, 4.96 mmol) was added and the mixture was stirred at 0° C. for 3 hours. The mixture was diluted with NH4Cl (aq. sat. solution) and extracted with DCM. The organic layer was separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica gel; AcOEt in DCM 0/100 to 20/80). The desired fractions were collected and concentrated in vacuo. The residue was dissolved in EtOH (10 mL) and NaHCO3 (aq. sat. solution) (1 mL) and the mixture was stirred at room temperature for 30 minutes. The mixture was diluted with water and the product extracted with DCM. The combined organic layers were concentrated in vacuo to yield rac-N-[1-(3-bromo-phenyl)-1-(1H-pyrazol-3-yl)-ethyl]-2-chloro-acetamide (1.22 g, 79% yield) as a colourless oil, which was used in the next step without further purification.

reactant | DIPEA | 6.77 mmol, 1.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | rac-1-(3-bromo-phenyl)-1-(1H-pyrazol-3-yl)-ethylamine | 4.51 mmol, 1.2 g | BrC=1C=C(C=CC1)C(C)(C1=NNC=C1)N | C11H12BrN3
reactant | chloroacetyl chloride | 4.96 mmol, 0.40 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | NH4Cl | [NH4+].[Cl-]
product | rac-N-[1-(3-bromo-phenyl)-1-(1H-pyrazol-3-yl)-ethyl]-2-chloro-acetamide | 1.22 g, 79% yield | BrC=1C=C(C=CC1)C(C)(C1=NNC=C1)NC(CCl)=O | C13H13BrClN3O
